US05627203
(Z)-3-Methyl-8-{[2-(N-benzylamino)ethoxy]imino}thieno[2,3-d]pyrrolo[1,2-a]-pyrrole
Add 1 g (3.2 mmol) of (Z)-3-methyl-8-[(2-bromo-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole, 0.53 g (3.8 mmol) of potassium carbonate and 0.51 g (4.8 mmol) of benzylamine in succession to 20 ml of N,N-dimethylformamide. The reaction mixture is heated at reflux for 3 hours then, after cooling, is poured into 100 ml of water and extracted with diethyl ether. The ethereal phase is washed with water, dried over magnesium sulfate, rendered colourless with animal charcoal and then concentrated under reduced pressure to yield 0.7 g of the title product in the form of an oil (base).

reactant | (Z)-3-methyl-8-[(2-bromo-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole | 3.2 mmol, 1 g | CC1=CSC=2\C(\C=3N(C21)C=CC3)=N/OCCBr | C12H11BrN2OS
reactant | potassium carbonate | 3.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | 4.8 mmol, 0.51 g | C(C1=CC=CC=C1)N | C7H9N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (Z)-3-Methyl-8-{[2-(N-benzylamino)ethoxy]imino}thieno[2,3-d]pyrrolo[1,2-a]-pyrrole | 0.7 g | CC1=CSC=2\C(\C=3N(C21)C=CC3)=N/OCCNCC3=CC=CC=C3 | C19H19N3OS
